US07585875B2
A mixture of 700 mg (4.7 mmol) of 2-methoxypyrazolo[1,5-a]pyridine, 550 mg of isobutyryl chloride and 300 mg of AlCl3 was stirred in 2 ml of DCE at RT for 5 hours. The reaction was quenched with saturated NH4Cl and extracted with ethyl acetate to yield 1 g of crude product. Purification on an Al2O3 column furnished 323 mg of 1-(2-methoxypyrazolo[1,5-a]pyridin-3-yl)-2-methylpropan-1-one. Compound 1055.

reactant | 2-methoxypyrazolo[1,5-a]pyridine | 4.7 mmol, 700 mg | COC1=NN2C(C=CC=C2)=C1 | C8H8N2O
reactant | isobutyryl chloride | 550 mg | C(C(C)C)(=O)Cl | C4H7ClO
reactant | AlCl3 | 300 mg | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | DCE | 2 ml | ClCCCl | C2H4Cl2
product | 1-(2-methoxypyrazolo[1,5-a]pyridin-3-yl)-2-methylpropan-1-one | 323 mg | COC1=NN2C(C=CC=C2)=C1C(C(C)C)=O | C12H14N2O2
